US05594023
A) 5-(tert-Butoxycarbonylamino)pentyl methanesulfonate
A solution of 28.6 g of 5-(tert-butoxycarbonylamino)pentan-1-ol in 100 ml of pyridine is cooled to 0° C. and 16.2 g of methanesulfonyl chloride are added dropwise in 3 hours at 0° C. The reaction mixture is stirred overnight at RT and concentrated under vacuum. The residue is taken up with water and extracted with AcOEt, the organic phase is washed three times with water, three times with a 5% solution of potassium hydrogensulfate, three times with water and with a saturated solution of NaCl and dried over sodium sulfate and the solvent is evaporated off under vacuum to give 39 g of the expected product, which is used as such in the next step.

reactant | 5-(tert-butoxycarbonylamino)pentan-1-ol | 28.6 g | C(C)(C)(C)OC(=O)NCCCCCO | C10H21NO3
reactant | methanesulfonyl chloride | 16.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-(tert-Butoxycarbonylamino)pentyl methanesulfonate | 39 g | CS(=O)(=O)OCCCCCNC(=O)OC(C)(C)C | C11H23NO5S
